* PMOS Output Characteristics (Ids vs Vds Family)
* Sweep VDS from 0 to -3.3V, step VGS from -0.5V to -3.3V in -0.5V steps

VDS d 0 DC 0
VGS g 0 DC -0.5

M1 d g 0 0 PMOD W=20u L=1u

.MODEL NMOD NMOS (VTO=0.7 KP=110u GAMMA=0.4 PHI=0.65 LAMBDA=0.04 CBD=10f CBS=10f)
.MODEL PMOD PMOS (VTO=-0.7 KP=50u GAMMA=0.4 PHI=0.65 LAMBDA=0.05 CBD=10f CBS=10f)

.DC VDS 0 -3.3 -0.01 VGS -0.5 -3.3 -0.5

.END
